data/mechanism_extracts/ChemRxiv/10.26434_chemrxiv.12639215.v2.json
{"doi": "10.26434_chemrxiv.12639215.v2", "journal": "ChemRxiv", "is_review": false, "rxn_class_summary": "Electrochemical halogen (Br2/Cl2) shuttle transferring vicinal dihalides from a saturated donor (e.g., vicinal dibromide or polychloroalkane) to an alkene acceptor to furnish a new vicinal dihalide and an alkene byproduct via a paired-electrolysis e-Shuttle process.", "mechanism_family": ["paired_electrolysis", "mediator_anodic", "mediator_cathodic", "cation_initiated"], "electrochemical_role": "Paired electrolysis: cathode reduces the vicinal dihalide donor (2 e-) releasing halide and an alkene; halide is oxidized at the anode (directly for Br-, or via Mn2+/Mn3+ mediator for Cl-) to generate an electrophilic halonium/X+ that adds across the acceptor alkene to give the vicinal dihalide product.", "key_intermediates": [{"name": "halide anion (Br- or Cl-) released by cathodic cleavage of donor C-X bond", "smiles": "[Br-]", "role": "transient"}, {"name": "alkene byproduct from reductive dehalogenation of donor", "smiles": null, "role": "transient"}, {"name": "bromonium / Br+ electrophile generated at anode", "smiles": null, "role": "reactive"}, {"name": "Mn(II)-Cl resting species (Cl2 cycle)", "smiles": null, "role": "resting_state"}, {"name": "Mn(III)-Cl oxidant generated by anodic oxidation (Cl2 cycle)", "smiles": null, "role": "reactive"}, {"name": "vicinal dihalide product from X+ addition to acceptor alkene", "smiles": null, "role": "reactive"}], "electron_flow": "At the cathode, two electrons reduce the vicinal dihalide donor, cleaving both C-X bonds to give an alkene and 2 X-. The X- migrates to the anode where it is oxidized (directly to Br+ for bromides, or via a Mn2+/Mn3+ redox mediator for chlorides) and the resulting electrophilic halogen adds across the acceptor alkene to deliver the vicinal dihalide product.", "rate_determining_step": null, "probe_reagents": [{"name": "1,2-dibromoethane (donor probe for HX elimination)", "smiles": "BrCCBr", "purpose": "intermediate_trap", "observation": "Used as Br2 donor; absence of HBr-elimination products supports a 2e- dehalogenation pathway rather than E2/HX elimination."}, {"name": "2,3-dibromobutane", "smiles": "CC(Br)C(Br)C", "purpose": "intermediate_trap", "observation": "Donor probe; ethylene/butene byproduct profile consistent with reductive vicinal dehalogenation, ruling out HX elimination."}, {"name": "1,1,1,2-tetrachloroethane", "smiles": "ClCC(Cl)(Cl)Cl", "purpose": "intermediate_trap", "observation": "Cl2 donor; product distribution rules out HCl elimination pathway."}, {"name": "1,2-dichloroethane (DCE)", "smiles": "ClCCCl", "purpose": "intermediate_trap", "observation": "Cl2 donor; consistent with reductive dechlorination releasing ethylene + 2 Cl-."}, {"name": "Lindane (γ-HCH)", "smiles": "C1(Cl)C(Cl)C(Cl)C(Cl)C(Cl)C1Cl", "purpose": "intermediate_trap", "observation": "Cl2 donor; formation of benzene (confirmed by crude NMR and GC) supports stepwise reductive dechlorination rather than HCl elimination."}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Authors explicitly designed Section 6 experiments to exclude an HX-elimination pathway from the donor; the favored mechanism is 2e- cathodic vicinal dehalogenation + anodic halide oxidation (direct for Br, Mn-mediated for Cl). A representative intramolecular Br2 transfer (Section 8) and CV studies (Section 7) further support discrete halide/halonium intermediates. Mn2+/Mn3+ is essential as an anodic mediator for the Cl2 cycle because direct Cl- oxidation is too anodic."}
